US06974870B2
Synthesis of 3-amino-4-phenylamino-thieno[2,3-b]pyridine-2-carboxylic acid amide
A solution of 20 mg trifluoromethanesulfonic acid 3-amino-2-carbamoyl-thieno[2,3-b]pyridin-4-yl ester and 27 microL aniline in 1 mL of THF was heated at 55° C. overnight under Ar. The reaction was applied to a 2 mm silica gel prep plate that was developed twice in 5% MeOH—CH2Cl2. The band was eluted with 50% MeOH—CH2Cl2 to get 18 mg. This was dissolved in 5% MeOH—CH2Cl2, filtered, concentrated, and dried in vacuo at 60° C. overnight to provide 10.5 mg of the title compound as a yellow-green solid.

reactant | trifluoromethanesulfonic acid 3-amino-2-carbamoyl-thieno[2,3-b]pyridin-4-yl ester | 20 mg | NC1=C(SC2=NC=CC(=C21)OS(=O)(=O)C(F)(F)F)C(N)=O | C9H6F3N3O4S2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | 3-amino-4-phenylamino-thieno[2,3-b]pyridine-2-carboxylic acid amide | 10.5 mg | NC1=C(SC2=NC=CC(=C21)NC2=CC=CC=C2)C(=O)N | C14H12N4OS
